US04307094
2.83 g (0.01 mol) of methyl 5-carboxy-2,3,5,8-tetrahydro-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-2-propionate were dissolved in 50 ml of methanol. The solution was saturated with ammonia and stirred for 72 hours. The mixture was evaporated to dryness and the residue was dissolved in water. The aqueous solution was passed through an ion-exchange column (Zerolit 225, H+ form) and the eluate was evaporated to give a colourless solid. This solid was recrystallized from methanol to give 2.26 g (85%) of 2-(2-carbamoylethyl)-2,3,5,8-tetrahydro-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylic acid of melting point 218°-220° C. (decomposition).

reactant | methyl 5-carboxy-2,3,5,8-tetrahydro-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-2-propionate | 0.01 mol, 2.83 g | C(=O)(O)C1N2N(CC=C1)C(N(C2=O)CCC(=O)OC)=O | C11H13N3O6
reactant | ammonia | N | H3N
solvent | methanol | 50 ml | CO | CH4O
product | 2-(2-carbamoylethyl)-2,3,5,8-tetrahydro-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylic acid | 2.26 g, 85% | C(N)(=O)CCN1C(N2N(CC=CC2C(=O)O)C1=O)=O | C10H12N4O5
